US08937078B2
Step A: Preparation of 4-amino-N-(2,6-dimethyl-phenyl)-benzamide.
Oxalyl chloride (1.9 mL, 22 mmol) was added dropwise to a solution of DMF (1.7 mL, 22 mmol) and DCM (22 mL) that was kept at 0° C. The resulting foamy white suspension was stirred for 30 min and allowed to warm to room temperature, then cooled again to 0° C. 4-Aminobenzoic acid (1.50 g, 10.9 mmol) was added and the reaction mixture was stirred at room temperature for 1 h. The flask was again cooled to 0° C. and DCM (11 mL) and pyridine (2.6 mL, 33 mmol) were added. Stirring was continued for 50 min and 2,6-dimethyl-phenylamine (1.33 g, 10.9 mmol) was then added. The reaction mixture was stirred at room temperature for 1.5 h and concentrated to dryness. The residue was dissolved in ethanol (30 mL) and 1,2-ethylenediamine (3.3 mL, 49 mmol) was added. The reaction mixture was heated at reflux for 2 h, allowed to cool to room temperature, stirred for 2 d, and concentrated. Water (50 mL) was added to the residue and the precipitate was collected, rinsed well with water, and dried to yield the titled compound (1.904 g, 70% yield). MS (ESI/Cl): mass calcd. for C15H16N2O, 240.1; m/z found, 241.1 [M+H]+. 1H NMR (400 MHz, CD3OD): 7.76 (d, J=8.8 Hz, 2H), 7.10 (s, 3H), 6.72 (d, J=8.8 Hz, 2H), 2.24 (s, 6H).

reactant | Oxalyl chloride | 22 mmol, 1.9 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 22 mmol, 1.7 mL | CN(C)C=O | C3H7NO
reactant | 4-Aminobenzoic acid | 10.9 mmol, 1.50 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | pyridine | 33 mmol, 2.6 mL | N1=CC=CC=C1 | C5H5N
reactant | 2,6-dimethyl-phenylamine | 10.9 mmol, 1.33 g | CC1=C(C(=CC=C1)C)N | C8H11N
reactant | 1,2-ethylenediamine | 49 mmol, 3.3 mL | C(CN)N | C2H8N2
solvent | DCM | 11 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 22 mL | C(Cl)Cl | CH2Cl2
product | 4-amino-N-(2,6-dimethyl-phenyl)-benzamide | 1.904 g, 70% yield | NC1=CC=C(C(=O)NC2=C(C=CC=C2C)C)C=C1 | C15H16N2O
